US06232290B1
A mixture of 4-bromobenzenethiol (6 g), 1,7-dibromoheptane (16.37 g), and potassium carbonate (8.77 g) in dimethylformanide (30 ml) was stirred at room temperature for 5.5 Hours. The reaction mixture was pulverized with water and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give 1-bromo-4-(7-bromoheptylthio)benzene (7.62 g).

reactant | 4-bromobenzenethiol | 6 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | 1,7-dibromoheptane | 16.37 g | BrCCCCCCCBr | C7H14Br2
reactant | potassium carbonate | 8.77 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-bromo-4-(7-bromoheptylthio)benzene | 7.62 g | BrC1=CC=C(C=C1)SCCCCCCCBr | C13H18Br2S
